US08084644B2
Potassium carbonate (0.075 g) and acetyl chloride (0.035 ml) were added to DMF (3 ml) solution of phenyl N-(4-hydroxyphenyl)-3-(phenoxy)acrylimidate (0.15 g) at room temperature and stirred for two hours at the same temperature and for three hours at 50° C. t-Butyl methyl ether (80 ml) was added to the reaction solution, and it was successively washed with water and aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain phenyl N-(4-acetoxyphenyl)-3-(phenoxy)acrylimidate (0.11 g) as colorless oil.

reactant | Potassium carbonate | 0.075 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetyl chloride | 0.035 ml | C(C)(=O)Cl | C2H3ClO
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | phenyl N-(4-hydroxyphenyl)-3-(phenoxy)acrylimidate | 0.15 g | OC1=CC=C(C=C1)N=C(C=COC1=CC=CC=C1)OC1=CC=CC=C1 | C21H17NO3
solvent | t-Butyl methyl ether | 80 ml | COC(C)(C)C | C5H12O
product | phenyl N-(4-acetoxyphenyl)-3-(phenoxy)acrylimidate | 0.11 g | C(C)(=O)OC1=CC=C(C=C1)N=C(C=COC1=CC=CC=C1)OC1=CC=CC=C1 | C23H19NO4
